US06362178B1
2-[2-Ethoxy-5-(4-ethyl-piperazine-1-sulphonyl)-phenyl]-5-methyl-7-propyl-3H-imidazo[5,1-f][1,2,4]triazin-4-one
470 mg (1.14 mmol) of 4-ethoxy-3-(5-methyl-4-oxo-7-propyl-3,4-dihydro-imidazo[5,1-f][1,2,4]triazin-2-yl)-benzenesulphonyl chloride are dissolved in 20 ml of dichloromethane and cooled to 0° C. 390 mg (3.42 mmol) of N-ethylpiperazine are added, and the reaction mixture is stirred at room temperature overnight. The mixture is diluted with dichloromethane, the organic phase is washed twice with water and dried over sodium sulphate and the solvent is removed under reduced pressure. Crystallization from ether gives 370 mg (66%) of a colourless solid.

reactant | 4-ethoxy-3-(5-methyl-4-oxo-7-propyl-3,4-dihydro-imidazo[5,1-f][1,2,4]triazin-2-yl)-benzenesulphonyl chloride | 1.14 mmol, 470 mg | C(C)OC1=C(C=C(C=C1)S(=O)(=O)Cl)C1=NN2C(C(N1)=O)=C(N=C2CCC)C | C17H19ClN4O4S
reactant | N-ethylpiperazine | 3.42 mmol, 390 mg | C(C)N1CCNCC1 | C6H14N2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-[2-Ethoxy-5-(4-ethyl-piperazine-1-sulphonyl)-phenyl]-5-methyl-7-propyl-3H-imidazo[5,1-f][1,2,4]triazin-4-one | 370 mg, 66% | C(C)OC1=C(C=C(C=C1)S(=O)(=O)N1CCN(CC1)CC)C1=NN2C(C(N1)=O)=C(N=C2CCC)C | C23H32N6O4S
